US05574178
Triethylsilane (17.4 ml) was added to 4,6-di-tert-butyl-5-hydroxy-2-octylbenzofuran (2.2 g) and trifluoroacetic acid (8.7 ml) was added dropwise to the mixture under cooling with ice. After stirring at 0° C. for 1 h, the mixture was poured into ice water and subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (n-hexane) to afford 4,6-di-tert-butyl-5-hydroxy-2-octyl-2,3-dihydrobenzofuran [0.6 g (yield, 27%)].

reactant | Triethylsilane | 17.4 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 4,6-di-tert-butyl-5-hydroxy-2-octylbenzofuran | 2.2 g | C(C)(C)(C)C1=C(C(=CC2=C1C=C(O2)CCCCCCCC)C(C)(C)C)O | C24H38O2
reactant | trifluoroacetic acid | 8.7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4,6-di-tert-butyl-5-hydroxy-2-octyl-2,3-dihydrobenzofuran | 0.6 g, 27% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)CCCCCCCC)C(C)(C)C)O | C24H40O2
